US05665718
0.33 g (1 mmol) of 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at room temperature overnight with 2 ml (2 mmol) of diethylamine and 5 ml of N,N-dimethylformamide. After evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate/ethanol 9/1 there was obtained 0.31 g (84%) of 3-(5-diethylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 235°-238°.

reactant | 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1 mmol, 0.33 g | ClCC1=NN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | diethylamine | 2 mmol, 2 ml | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(5-diethylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.31 g, 84% | C(C)N(CC)CC1=NN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C19H22N6O2
